US20010053851A1
A solution of 3-cyclopentyl-2-[4-(4-hydroxy-pent-1-ynyl)-phenyl]-propionic acid (100 mg, 0.30 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (200 mg, 0.45 mmol), triethylamine (0.13 mL, 0.93 mmol) and 2-aminothiazole (52 mg, 0.45 mmol) in methylene chloride (5 mL) was stirred at 25° C. for 2 h. At this time, the reaction was diluted with methylene chloride (10 mL). This solution was washed with water (1×10 mL), a 1N aqueous sodium hydroxide solution (1×10 mL), a 1N aqueous hydrochloric acid solution (1×10 mL), and a half-saturated aqueous sodium chloride solution (1×10 mL). The aqueous layers were back extracted with methylene chloride (1×10 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) afforded 3-cyclopentyl-2-[4-(4-hydroxy-pent-1-ynyl)-phenyl]-N-thiazol-2-yl-propionamide (61 mg, 47.9%) as a white solid: mp 162-163° C.; EI-HRMS m/e calcd for C22H26N2O2S (M+) 382.1715, found 382.1718.

reactant | 3-cyclopentyl-2-[4-(4-hydroxy-pent-1-ynyl)-phenyl]-propionic acid | 0.30 mmol, 100 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C#CCC(C)O | C19H24O3
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.45 mmol, 200 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 0.93 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminothiazole | 0.45 mmol, 52 mg | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopentyl-2-[4-(4-hydroxy-pent-1-ynyl)-phenyl]-N-thiazol-2-yl-propionamide | 61 mg, 47.9% | C1(CCCC1)CC(C(=O)NC=1SC=CN1)C1=CC=C(C=C1)C#CCC(C)O | C22H26N2O2S
